US04087620
Dimethyl 2-oxo-2-(trans-4-ethylcyclohexyl)ethylphosphonate
Under an atmosphere of nitrogen, 47 ml. of a 1.25M solution of n-butyllithium in n-hexane were added dropwise to a solution of 7.64 g. of dimethyl methylphosphonate in 120 ml. of tetrahydrofuran at -70° C. After one hour of stirring at -70° C., a solution of 5.63 g. of ethyl trans-4-ethylcyclohexanecarboxylate [c.f. N. L. Allinger and L. A. Freiberg, J. Org. Chem., 31, 894, (1966)] in 30 ml. of tetrahydrofuran was added dropwise at -70° C., and the mixture was stirred at the same temperature for one hour and further stirred at -5° C., for one hour. The reaction mixture was then acidified with acetic acid and concentration under reduced pressure. The residue was diluted with diethyl ether, washed with water and an aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by distillation to give 5.0 g. of the title compound having the following physical characteristics:-

reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl trans-4-ethylcyclohexanecarboxylate | C(C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C11H20O2
solvent | n-hexane | CCCCCC | C6H14
product | Dimethyl 2-oxo-2-(trans-4-ethylcyclohexyl)ethylphosphonate | O=C(CP(OC)(OC)=O)[C@@H]1CC[C@H](CC1)CC | C12H23O4P
